US06486325B1
To a solution of (2-acetyl-5-methoxy-phenyl)-acetic acid (5.00 g, 24.0 mmol) in methanol (50 mL) was added concentrated sulfuric acid (1.0 mL). The reaction mixture was stirred at room temperature for 16 hours after which it was concentrated to a low volume. Dichloromethane (50 mL) was added and the solution was washed with 1N sodium hydroxide (50 mL). The layers were separated and the organic layer was dried over magnesium sulfate, filtered, and concentrated to an oil which solidified on standing to afford (2-acetyl-5-methoxy-phenyl)-acetic acid methyl ester (4.70 g, 88%). M.p. 74-76° C. 1H NMR (300 MHz, CDCl3) δ2.58 (s, 3), 3.74 (s, 3), 3.89 (s, 3), 3.95 (s, 2), 6.78 (d, 1, J=2.6), 6.89 (dd, 1, J=8.7, 2.6), 7.89 (d, 1, J=8.6). 13C NMR (75 MHz, CDCl3) δ29.65, 42.35, 53.11, 56.69, 113.17, 120.00, 130.52, 134.39, 138.90, 163.54, 173.23, 200.35. IR 1739, 1665, 1605, 1568, 1321, 1247, 1165 cm−1. Analysis calculated for C12H14O4: C, 65.85; H, 6.35. Found: C, 64.87; H, 6.44.

reactant | (2-acetyl-5-methoxy-phenyl)-acetic acid | 24.0 mmol, 5.00 g | C(C)(=O)C1=C(C=C(C=C1)OC)CC(=O)O | C11H12O4
reactant | sulfuric acid | 1.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 mL | CO | CH4O
product | (2-acetyl-5-methoxy-phenyl)-acetic acid methyl ester | 4.70 g, 88% | COC(CC1=C(C=CC(=C1)OC)C(C)=O)=O | C12H14O4
